US06562978B1
tert-Butyl 4-(1,4,7b-Triazacyclopenta[cd]inden-2-ylsulfanyl)-1-piperidinecarboxylate
To a solution of tert-butyl 4-[(methylsulfonyl)oxy]-1-piperidinecarboxylate (3.5 g, 12.5 mmol) in DMF (60 ml) were added 1,4,7b-triazacyclopenta[cd]inden-2-thiol (3.7 g, 21.3 mmol). and DBU (3.7 ml, 25 mmol), and the mixture was stirred at 80° C. for 11 hours. The reaction mixture was concentrated under reduced pressure, and to the concentrate was added water (200 ml). The mixture was extracted with a mixed solution of THF and ethyl acetate (3/2, 500 ml). The organic layer was washed with saturated aqueous solution of sodium chloride (200 ml), successively, and dried over anhydrous sodium sulfate, concentrated under reduced pressure. The concentrate was subjected to flash column chromatography (silica gel 30 g,: ethyl acetate/hexane=1/2 to 1/0), and the desired fraction was concentrated under reduced pressure. To the concentrate was added diisopropyl ether and the precipitates were collected by filtration to give the titled compound (2.5 g, 7 mmol) as yellowish powdery crystals.

reactant | tert-butyl 4-[(methylsulfonyl)oxy]-1-piperidinecarboxylate | 12.5 mmol, 3.5 g | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
reactant | 1,4,7b-triazacyclopenta[cd]inden-2-thiol | 21.3 mmol, 3.7 g | N1=C(C=2N3C(C=CC=C13)=NC2)S | C8H5N3S
reactant | DBU | 25 mmol, 3.7 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(1,4,7b-Triazacyclopenta[cd]inden-2-ylsulfanyl)-1-piperidinecarboxylate | 7 mmol, 2.5 g | N1=C(C=2N3C(C=CC=C13)=NC2)SC2CCN(CC2)C(=O)OC(C)(C)C | C18H22N4O2S
